US09119868B2
Step 7: (3-(N-(5-Cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenethyl)boronic acid
Sodium periodate (380 mg, 1.78 mmol) and 1N aqueous HCl (1.5 mL, 1.5 mmol) were added to a cold (0° C.) solution of 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)ethyl)phenyl)methylsulfonamido)benzofuran-3-carboxamide (75 mg, 0.119 mmol) in THF (3 mL). The mixture was stirred at 0° C. for 10 min then warmed to room temperature. After one hour, the reaction mixture was diluted with EtOAc and the organic layer was separated and washed with 5% aqueous sodium thiosulfate and brine and dried over sodium sulfate. The solvent was evaporated and the residue was subjected to reverse phase HPLC (C18, acetonitrile:water with 0.1% formic acid) to give the title compound (22 mg, 34%) as a white powder. 1H NMR (400 MHz, DMSO-d6) d ppm 8.42-8.53 (m, 1H) 8.06-8.13 (m, 1H) 7.92-8.02 (m, 2H) 7.55 (s, 2H) 7.34-7.46 (m, 3H) 7.24-7.30 (m, 2H) 7.14-7.18 (m, 1H) 7.04-7.11 (m, 1H) 2.83 (d, J=4.68 Hz, 3H) 2.58-2.67 (m, 2H) 2.48-2.55 (m, 3H) 2.15-2.31 (m, 1H) 0.94-1.11 (m, 1H) 0.75-0.94 (m, 4H) 0.47 (m, 1H). LCMS (m/z, ES+)=551 (M+H+).

reactant | Sodium periodate | 1.78 mmol, 380 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | HCl | 1.5 mmol, 1N, 1.5 mL | Cl | ClH
reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)ethyl)phenyl)methylsulfonamido)benzofuran-3-carboxamide | 0.119 mmol, 75 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=CC=C1)CCB1OC(C(O1)(C)C)(C)C | C34H38BFN2O6S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3-(N-(5-Cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenethyl)boronic acid | 22 mg, 34% | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C=1C=C(CCB(O)O)C=CC1 | C28H28BFN2O6S
